US07361677B2
4-[(4-Benzyloxy-3-fluoro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03019, STX695)
Sodium hydride (60%, 400 mg, 10.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (1.852 g, 10.0 mmol) in DMF (50 mL) at room temperature. The mixture was stirred for 1 h at this temperature and 1-benzyloxy-4-chloromethyl-2-fluoro-benzene (CAB03018, 2.51 g, 10.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (200 mL) and water (50 mL) were added. The mixture was transferred into a separation funnel and washed with water (2×50 mL) and brine (30 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was suspended in 2-propanol (40 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 3.12 g (78%). 1H-NMR (400 MHz, d6-DMSO) δ=4.97 (s, 2H), 5.12 (s, 2H), 6.73 (d, J=9.0 Hz, 2H), 7.01 (dd, J=8.2, 1.2 Hz, 1H), 7.16 (dd, J=8.6, 8.6 Hz 1H), 7.21 (dd, J=8.6, 2.4 Hz, 1H), 7.30-7.44 (m, 5H), 7.75 (d, J=9.0 Hz, 2H), 8.80 (s, 2H). LRMS (FAB+): 400.1 (100, [M+H]+).

reactant | Sodium hydride | 10.0 mmol, 400 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 10.0 mmol, 1.852 g | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1-benzyloxy-4-chloromethyl-2-fluoro-benzene | 10.0 mmol, 2.51 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCl)F | C14H12ClFO
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-[(4-Benzyloxy-3-fluoro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)F | C23H18FN5O
